US04478832
Preparation of N-methoxy-2-trifluoromethylbenzhydroxamic acid
To a stirred solution of 25 g (0.30 mole) methoxyamine hydrochloride (NH2OCH3 :HCl) and 43 g (0.31 mole) potassium carbonate in about 200 mis ice water, 50 g (0.259 mole) of 2-trifluoromethyl-benzoylchloride were added at a slow to moderate dropping rate. The reaction mixture was stirred overnight. The mixture was suction-filtered and the residue, the crude product, was dried in a vacuum oven. The crude product was then washed with hexane (about 100 mls) and diethylether (about 2 to 3 mls), as an extra purifying step, to give the product a white solid, melting point 101° to 103° C.

reactant | methoxyamine hydrochloride | 0.30 mole, 25 g | Cl.CON
reactant | potassium carbonate | 0.31 mole, 43 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-trifluoromethyl-benzoylchloride | 0.259 mole, 50 g | FC(C1=C(C(=O)Cl)C=CC=C1)(F)F | C8H4ClF3O
product | N-methoxy-2-trifluoromethylbenzhydroxamic acid | CON(O)C(C1=C(C=CC=C1)C(F)(F)F)=O | C9H8F3NO3
